US04985419
By working in a manner similar to that described below in Example 103, but starting with 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride (3.5 g) in dichloromethane (100 cc) and with cyclopropylmethylamine (3.8 g), N-(cyclopropylmethyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (3 g) is obtained in the form of a cream-coloured product of meringue-like consistency, which is dissolved in acetonitrile (20 cc). A 2.4N solution (8 cc) of hydrochloric acid in ethyl ether is then added. The crystals are drained and dried under reduced pressure (5 mm Hg; 0.67 kPa) at 40° C. N-(Cyclopropylmethyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride (2.6 g) is obtained in the form of white crystals, m.p. 220° C.

reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride | 3.5 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)Cl
reactant | cyclopropylmethylamine | 3.8 g | C1(CC1)CN | C4H9N
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
product | N-(cyclopropylmethyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 3 g | C1(CC1)CNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C24H29N3OS
